US06727264B1
2-METHYL-N-(3-{1-[4-(5-METHYL-2-PHENYL-1H-INDOL-3-YL)BUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure E and Scheme M using 2-methyl-N-{3-[1-(6-oxo-6-phenylhexyl)-4-piperidinyl]phenyl}propanamide and 1-(4-methylphenyl)hydrazine hydrochloride: ESMS m/e: 508.3 (M+H)+.

reactant | 2-methyl-N-{3-[1-(6-oxo-6-phenylhexyl)-4-piperidinyl]phenyl}propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCCC(C1=CC=CC=C1)=O)C | C27H36N2O2
reactant | 1-(4-methylphenyl)hydrazine hydrochloride | Cl.CC1=CC=C(C=C1)NN
product | 2-METHYL-N-(3-{1-[4-(5-METHYL-2-PHENYL-1H-INDOL-3-YL)BUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCC1=C(NC2=CC=C(C=C12)C)C1=CC=CC=C1)C | C34H41N3O
